US08710059B2
N-(2-Methoxymethyl-phenyl)-4-ethoxy-3-piperazin-1-yl-benzenesulfonamide
0.074 g of the product was obtained as described in Example 1 by reaction of N-(2-methoxymethyl-phenyl)-4-ethoxy-3-[4-(2,2,2-trifluoro-acetyl)piperazin-1-yl]-benzenesulfonamide with aqueous sodium hydroxide.

reactant | N-(2-methoxymethyl-phenyl)-4-ethoxy-3-[4-(2,2,2-trifluoro-acetyl)piperazin-1-yl]-benzenesulfonamide | COCC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)OCC)N1CCN(CC1)C(C(F)(F)F)=O | C22H26F3N3O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(2-Methoxymethyl-phenyl)-4-ethoxy-3-piperazin-1-yl-benzenesulfonamide | COCC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)OCC)N1CCNCC1 | C20H27N3O4S
